US07560596B2
Synthesis of 2,6,2′-trimethyl-biphenyl (FIG. 2, Entry 7; A. Littke, C. Dai, G. C. Fu J. Am. Chem. Soc. 2000, 122, 4020.)
The general procedure described in Example 3 was used with 2-bromotoluene (0.120 mL, 1.00 mmol), 2,6-dimethylphenylboronic acid (225 mg, 1.50 mmol), Pd(OAc)2 (4.5 mg, 0.020 mmol, 2 mol %), sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate (20.0 mg, 0.040 mmol, 4 mol %), K2CO3 (276 mg, 2.00 mmol), water (1.5 mL), 22 h, room temperature. The product was isolated as a colorless oil (190 mg, 97%). 1H NMR (400 MHz, CDCl3) δ: 7.30-7.10 (m, 6H), 7.02-7.00 (m, 1H), 1.99 (s, 3H), 1.96 (s, 6H). 13C NMR (125 MHz, CDCl3) δ: 141.1, 140.7, 136.1, 135.9, 130.0, 129.1, 127.4, 127.1, 127.1, 126.1, 20.7, 19.7.

reactant | 2-bromotoluene | 1.00 mmol, 0.120 mL | BrC1=C(C=CC=C1)C | C7H7Br
reactant | 2,6-dimethylphenylboronic acid | 1.50 mmol, 225 mg | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
reactant | K2CO3 | 2.00 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.020 mmol, 4.5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate | 0.040 mmol, 20.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
solvent | water | 1.5 mL | O | H2O
product | 2,6,2′-trimethyl-biphenyl | 190 mg, 97% | CC1=C(C(=CC=C1)C)C1=C(C=CC=C1)C | C15H16
